US08703784B2
Step 6: Preparation of tert-butyl 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-8-azabicyclo[3.2.1]oct-2-ene-8-carboxylate
A mixture of tert-butyl 3-(trifluoromethylsulfonyloxy)-8-azabicyclo[3.2.1]oct-3-ene-8-carboxylate (Int-1e) (10.1 g, 28.4 mmol), bis(pinacolato)diboron (8.7 g, 34.1 mmol), KOAc (8.4 g, 85.3 mmol), PdCl2(dppf)2.CH2Cl2 (1.4 g, 1.7 mmol), and dppf (1 g, 1.8 mmol) in dioxane (170 ml) was flushed with argon and stirred at 80° C. for 16 h. On cooling, the solvent was rotoevaporated, and the crude residue was redissolved in EtOAc (500 ml), washed with water (1×125 ml), brine (1×125 ml), and dried over MgSO4. The solvent was removed in vacuo and the residue was purified by column chromatography on silica gel. Elution with EtOAc/Hexanes (0-40%) gave the desired product, tert-butyl 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-8-azabicyclo[3.2.1]oct-2-ene-8-carboxylate (8.6 g, 90%).

reactant | tert-butyl 3-(trifluoromethylsulfonyloxy)-8-azabicyclo[3.2.1]oct-3-ene-8-carboxylate | 28.4 mmol, 10.1 g | FC(S(=O)(=O)OC=1CC2CCC(C1)N2C(=O)OC(C)(C)C)(F)F | C13H18F3NO5S
reactant | bis(pinacolato)diboron | 34.1 mmol, 8.7 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 85.3 mmol, 8.4 g | CC(=O)[O-].[K+]
reactant | CH2Cl2 | 1.7 mmol, 1.4 g | C(Cl)Cl | CH2Cl2
solvent | dioxane | 170 ml | O1CCOCC1 | C4H8O2
solvent | EtOAc | 500 ml | CCOC(=O)C | C4H8O2
catalyst | PdCl2(dppf)2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | dppf | 1.8 mmol, 1 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | tert-butyl 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-8-azabicyclo[3.2.1]oct-2-ene-8-carboxylate | 8.6 g, 90% | CC1(OB(OC1(C)C)C1=CC2CCC(C1)N2C(=O)OC(C)(C)C)C | C18H30BNO4
